US04521416
A vigorously stirred mixture of 2.2 g of 4,5-dihydro-6-(1-methyl-2-phenyl-1H-imidazol-4-yl)-3(2H)-pyridazinone, Example 1, Isomer A, MnO2 (Aldrich Chemical, 12 g) and dioxane (175 ml) is heated to 70° C. for 22 hours. The temperature is raised to 100° C. and maintained there for another 25 hours. Additional MnO2 (8 g) is added and refluxing continued for an additional 20 hours. The mixture is filtered, washed with hot dioxane, and finally with warm tetrahydrofuran. The combined filtrate and washings are concentrated to a small volume to yield 0.9 g of 6-(1-methyl-2-phenyl-1H-imidazol-4-yl)-3(2H)-pyridazinone, as off-white crystals, mp 291°-292° C., dec.

reactant | 4,5-dihydro-6-(1-methyl-2-phenyl-1H-imidazol-4-yl)-3(2H)-pyridazinone | 2.2 g | CN1C(=NC(=C1)C=1CCC(NN1)=O)C1=CC=CC=C1 | C14H14N4O
catalyst | MnO2 | 12 g | O=[Mn]=O
catalyst | MnO2 | 8 g | O=[Mn]=O
solvent | dioxane | 175 ml | O1CCOCC1 | C4H8O2
product | 6-(1-methyl-2-phenyl-1H-imidazol-4-yl)-3(2H)-pyridazinone | 0.9 g | CN1C(=NC(=C1)C=1C=CC(NN1)=O)C1=CC=CC=C1 | C14H12N4O
